US07122543B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-methoxyphenyl)benzoic acid
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-methoxyphenyl)benzoate (472 mg, 1.0128 mmol) was dissolved in a mixed solution of a 1N aqueous solution of sodium hydroxide (10 ml) and 1,4-dioxane (20 ml) followed by stirring at room temperature for 16 hours. The reaction solution was diluted with water (100 ml), washed with ether, acidified with concentrated hydrochloric acid and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom to give the title compound (440 mg, 0.9734 mmol, 96%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-methoxyphenyl)benzoate | 1.0128 mmol, 472 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)C2=CC=C(C=C2)OC)C(=C(C1OC)OC)OC)C | C27H30O7
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-methoxyphenyl)benzoic acid | 0.9734 mmol, 440 mg, 96% | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=CC=C(C=C2)OC)C(=C(C1OC)OC)OC)C | C26H28O7
